US06187770B1
A mixture of 1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]thiazepine (1.5 g, 5.6 mmol), ethyl acrylate (0.61 g, 6.1 mmol) and ethanol (40 ml) was heated at reflux temperature for 5 minutes and then left to stand for 24 h at room temperature, affording crude 3-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]thiazepin-2-yl)propionic acid ethyl ester.

reactant | 1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]thiazepine | 5.6 mmol, 1.5 g | C1NCCN2C3=C(SC4=C(C21)C=CC=C4)C=CC=C3 | C16H16N2S
reactant | ethyl acrylate | 6.1 mmol, 0.61 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]thiazepin-2-yl)propionic acid ethyl ester | C(C)OC(CCN1CC2N(C3=C(SC4=C2C=CC=C4)C=CC=C3)CC1)=O | C21H24N2O2S
